US05215738
Preparation of 3-(Ethoxycarbonylmethoxy) benzamide
The subject compound was prepared using the general method of Example 3, except that 10.0 g (72.9 mmol) of 3-hydroxybenzamide was reacted with 29.0 g (236.6 mmol) of ethyl chloroacetate and 19.0 g (137.5 mmole) of K2CO3 in the presence of 150 cc dry DMF. There was obtained 11.8 g (72%) of the desired product having an mp of 158°-159° C.

reactant | 3-hydroxybenzamide | 72.9 mmol, 10.0 g | OC=1C=C(C(=O)N)C=CC1 | C7H7NO2
reactant | ethyl chloroacetate | 236.6 mmol, 29.0 g | ClCC(=O)OCC | C4H7ClO2
reactant | K2CO3 | 137.5 mmole, 19.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 150 cc | CN(C)C=O | C3H7NO
product | 3-(Ethoxycarbonylmethoxy) benzamide | 11.8 g, 72% | C(C)OC(=O)COC=1C=C(C(=O)N)C=CC1 | C11H13NO4
